US05175166
1-Triphenylmethyl-1,4,5,6-tetrahydro-5-methoxycarbonylpyrimidine
1,4,5,6-Tetrahydro-5-methoxycarbonylpyrimidine hydrochloride (I.49 g, 8.3 mmol), 1,8 diazabicyclo [5.4.0] undec-7ene, (hereinafter diazabicycloundecene and/or DBU), (2.5 mL, 16.6 mmol), and tritylchloride (2.32 g, 8.3 mmol) were suspended in anhydrous DMF (20 ml) with stirring under nitrogen at room temperature. After 18 hours stirring the suspension was evaporated in vacuo and the residue chromatographed (silica, chloroform/methanol, 9:1) to yield 2.28 g (rf=0.15, 71%) white crystalline solid identified by 300 MHz nmr and ms m/z=384.

reactant | 1,4,5,6-Tetrahydro-5-methoxycarbonylpyrimidine hydrochloride | 8.3 mmol, 49 g | Cl.COC(=O)C1CN=CNC1
reactant | 1,8 diazabicyclo [5.4.0] undec-7ene | 16.6 mmol, 2.5 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | tritylchloride | 8.3 mmol, 2.32 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1-Triphenylmethyl-1,4,5,6-tetrahydro-5-methoxycarbonylpyrimidine | C1(=CC=CC=C1)C(N1C=NCC(C1)C(=O)OC)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H24N2O2
